US05863947
2-Amino-2-(2-methyl-3,5-dihydroxyphenyl)-acetic acid
A solution of 5-(2-methyl-3,5-dihydroxyphenyl)-hydantoin (400 mg, 1.8 mmol) in 2M sodium hydroxide (4.5 ml, 9 mmol) was heated in a sealed vessel at 110° C. for 48 hours. The reaction mixture was allowed to cool, neutralised with 2M hydrochloric acid and purified by cation-exchange chromatography (Dowex 50×8-100; column eluted sequentially with water,water:THF 1:1 and water again. The amino acid was finally eluted with water:pyridine 9:1). The pyridine was removed in vacuo and the residual solid redissolved in water and freeze-dried to give the title compound as a light brown solid, m.p. 215° C. (dec).

reactant | 5-(2-methyl-3,5-dihydroxyphenyl)-hydantoin | 1.8 mmol, 400 mg | CC1=C(C=C(C=C1O)O)C1C(NC(N1)=O)=O | C10H10N2O4
reactant | sodium hydroxide | 9 mmol, 2M, 4.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
product | 2-Amino-2-(2-methyl-3,5-dihydroxyphenyl)-acetic acid | NC(C(=O)O)C1=C(C(=CC(=C1)O)O)C | C9H11NO4
